US07666834B2
4-Fluoro-2-thiazol-2-yl-phenylamine (146)
2-Tributylstannanyl-thiazole (600 mg, 1.6 mmol) was reacted with 2-bromo-4-fluoroaniline (220 mg, 1.2 mmol) according to general procedure [B] for the preparation of substituted anilines described above, which gave the title compound (18 mg, 8%). [M+1] 195.

reactant | 2-Tributylstannanyl-thiazole | 1.6 mmol, 600 mg | C(CCC)[Sn](C=1SC=CN1)(CCCC)CCCC
reactant | 2-bromo-4-fluoroaniline | 1.2 mmol, 220 mg | BrC1=C(N)C=CC(=C1)F | C6H5BrFN
product | 4-Fluoro-2-thiazol-2-yl-phenylamine | 18 mg, 8% | FC1=CC(=C(C=C1)N)C=1SC=CN1 | C9H7FN2S
